US07449467B2
tert-Butyl 4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridine-1′(2′H)-carboxylate
To a solution of tert-butyl 4-hydroxy-4-[4-(trifluoromethyl)pyridin-2-yl]piperidine-1-carboxylate (2.00 g, 2.31 mmol) in pyridine (15.9 mL) cooled in an ice bath was slowly added thionyl chloride (0.84 mL, 12 mmol). The mixture was allowed to warm to room temperature and stirred overnight (17 h). The brown reaction mixture was quenched with ice water and extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel (0-10% B over 25 min. Bottle A=hexanes, Bottle B=EtOAc) to give 404 mg (53%) of desired product as light brown oil. LC-MS calculated for C16H19F3N2O2: (M+H) 329; found 273.1 (M-tBu+1).

reactant | tert-butyl 4-hydroxy-4-[4-(trifluoromethyl)pyridin-2-yl]piperidine-1-carboxylate | 2.31 mmol, 2.00 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC(=C1)C(F)(F)F | C16H21F3N2O3
reactant | thionyl chloride | 12 mmol, 0.84 mL | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 15.9 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridine-1′(2′H)-carboxylate | 404 mg, 53% | FC(C1=CC(=NC=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H19F3N2O2
